US07932396B2
0.800 g of tert-butyl[2-(3,5-dichloropyridin-2-yl)cyclopropyl](2-iodobenzoyl)carbamate (0.00075 mol) are dissolved in 7 ml of dichloromethane. 0.70 ml of trifluoroacetic acid are added to the reaction mixture which is left stirring at room temperature overnight. The reaction mixture is quenched with 15 ml of an aqueous solution of saturated sodium bicarbonate. After separation, the aqueous phase is extracted with dichloromethane (10 ml). The combined organic phases are dried over magnesium sulfate, filtered, concentrated to dryness and purified on silica to yield to 245 mg of N-[2-(3,5-dichloropyridin-2-yl)cyclopropyl]-2-iodobenzamide (65%).

reactant | tert-butyl[2-(3,5-dichloropyridin-2-yl)cyclopropyl](2-iodobenzoyl)carbamate | 0.00075 mol, 0.800 g | C(C)(C)(C)OC(N(C(C1=C(C=CC=C1)I)=O)C1C(C1)C1=NC=C(C=C1Cl)Cl)=O | C20H19Cl2IN2O3
reactant | trifluoroacetic acid | 0.70 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N-[2-(3,5-dichloropyridin-2-yl)cyclopropyl]-2-iodobenzamide | 245 mg, 65% | ClC=1C(=NC=C(C1)Cl)C1C(C1)NC(C1=C(C=CC=C1)I)=O | C15H11Cl2IN2O
